US08349851B2
To a suspension of ethyl 4-(1H-pyrazol-3-ylamino)-7-iodoquinazoline-2-carboxylate (0.130 g, 0.31 mmol) in THF (5 mL) at −40° C. was added (4-fluorophenyl)magnesium bromide (1.0 M solution in THF, 0.797 mL, 0.79 mmol). The mixture was stirred at −40° C. for 5 h, quenched with 1.0 N HCl (2.0 mL), and concentrated under reduced pressure. The residue wad purified on preparative HPLC (Phenomenex phenylhexyl reverse phase column, eluted with gradient of solvent B=0.05% HOAc/CH3CN and solvent A=0.05% HOAc/H2O) to afford (4-(1H-pyrazol-3-ylamino)-7-iodoquinazolin-2-yl)(4-fluorophenyl)methanone as a yellow solid (0.050 g, 34%). 1H NMR (300 MHz, DMSO-d6) δ 6.72 (s, 1H), 7.35 (t, 2H), 7.64 (s, 1H), 8.00 (d, 1H), 8.08 (dd, 2H), 8.28 (s, 1H), 8.55 (d, 1H), 10.88 (s, 1H), 12.55 (s, 1H); LC-MS (ESI) m/z 460 (M+H)+.

reactant | ethyl 4-(1H-pyrazol-3-ylamino)-7-iodoquinazoline-2-carboxylate | 0.31 mmol, 0.130 g | N1N=C(C=C1)NC1=NC(=NC2=CC(=CC=C12)I)C(=O)OCC | C14H12IN5O2
reactant | (4-fluorophenyl)magnesium bromide | 0.79 mmol, 1.0 M, 0.797 mL | FC1=CC=C(C=C1)[Mg]Br
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (4-(1H-pyrazol-3-ylamino)-7-iodoquinazolin-2-yl)(4-fluorophenyl)methanone | 0.050 g, 34% | N1N=C(C=C1)NC1=NC(=NC2=CC(=CC=C12)I)C(=O)C1=CC=C(C=C1)F | C18H11FIN5O
